US08809539B2
An aqueous solution (10 mL) of sodium hydroxide (0.86 g, 0.0215 mol) is added to a stirred solution of 1-{4-[5-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-3-yl]benzyl}piperidine-4,4-dicarboxylic acid diethyl ester (2.3 g, 0.004 mol) in a mixture of ethanol (50 mL) and tetrahydrofuran (10 mL). The reaction mixture is refluxed for 20 hrs, then is concentrated under reduced pressure. The residue is acidified with 3N HCl to pH ˜2. The solid thus formed is filtered, washed with a mixture of methanol:ether (30 mL, 10:90), then tetrahydrofuran (20 mL) and dried to furnish 1-{4-[5-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-3-yl]benzyl}-piperidine-4,4-dicarboxylic acid (e.g. 14).

reactant | sodium hydroxide | 0.0215 mol, 10 mL, 0.86 g | [OH-].[Na+]
reactant | 1-{4-[5-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-3-yl]benzyl}piperidine-4,4-dicarboxylic acid diethyl ester | 0.004 mol, 2.3 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)C(F)(F)F)C(=O)OCC | C27H28F3N3O5
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-{4-[5-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-3-yl]benzyl}-piperidine-4,4-dicarboxylic acid | FC(C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(CN2CCC(CC2)(C(=O)O)C(=O)O)C=C1)(F)F | C23H20F3N3O5
